.include NOT.sub

.subckt XOR x y out vdd gnd lambda=0.09u width_N=0.9u width_P=1.8u

xinv1 x xnot vdd gnd NOT 
* lambda={lambda} width_N={width_N} width_P={width_P}
xinv2 y ynot vdd gnd NOT 
* lambda={lambda} width_N={width_N} width_P={width_P}

M1 node x y gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M2 node xnot ynot gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

xinv3 node out vdd gnd NOT 
* lambda={lambda} width_N={width_N} width_P={width_P}

.ends XOR